US06800651B2
N-(3-Formyl-4-methylphenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine
A mixture of N-(3-iodo-4-methylphenyl)-N-(ethylsulfonyl)pyrid-3-ylmethylamine (0.415 g, 0.997 mmol), sodium formate (0.102 g, 1.50 mmol), and dichloro-bis(triphenylphosphine)palladium (0.014 g, 0.020 mmol) were combined in 1.0 mL DMF and purged with anhydrous CO gas. The mixture was heated to 100° C. for 1.5 h. The reaction was poured into saturated NaHCO3 solution and extracted with EtOAc. The combined fractions were washed with H2O and brine, dried over MgSO4, filtered and concentrated. The mixture was chromatographed on silica gel with 1:1 EtOAc/DCM to give the title compound as a clear oil. 1H NMR: 10.11 (s,1H), 8.38 (br s,1H), 8.26 (br s,1H). 7.60 (m,2H), 7.13 (m,1H), 7.00 (s,2H), 4.80 (s,2H), 3.00 (q,J=7.3 Hz, 2H), 2.52 (s,3H), 2.35 (t,J=7.3 Hz, 3H).

reactant | N-(3-iodo-4-methylphenyl)-N-(ethylsulfonyl)pyrid-3-ylmethylamine | 0.997 mmol, 0.415 g | IC=1C=C(C=CC1C)N(S(=O)(=O)CC)CC=1C=NC=CC1 | C15H17IN2O2S
reactant | sodium formate | 1.50 mmol, 0.102 g | C(=O)[O-].[Na+]
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | N-(3-Formyl-4-methylphenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine | C(=O)C=1C=C(C=CC1C)N(S(=O)(=O)CC)CC=1C=NC=CC1 | C16H18N2O3S
